US08404709B2
1-[5-Ethoxy-2-methyl-4-[4-nitro-2-(trifluoromethyl)phenyl]-1,4-dihydro-1,6-naphthyridin-3-yl]-ethanone
976 mg (2.48 mmol) of 3-acetyl-2-methyl-4-[4-nitro-2-(trifluoromethyl)phenyl]-4,6-dihydro-1,6-naphthyridin-5(1H)-one are suspended in THF (60 ml), and 3 ml (3 mmol) of N′″-(tert-butyl)-N,N′,N″-tris[tris(dimethylamino)phosphoranylidene]phosphorimide triamide (phosphazene base P4-t-Bu; 1 M in hexane) are added. Then 389 μl (2.97 mmol) of ethyl trifluoromethanesulfonate are added to the dark red solution. The decolorized solution is stirred for a further 10 min and then mixed with methanol and concentrated. The residue is purified by preparative HPLC to result in 240 mg (23% of theory) of the title compound as a white solid.

reactant | 3-acetyl-2-methyl-4-[4-nitro-2-(trifluoromethyl)phenyl]-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 2.48 mmol, 976 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C18H14F3N3O4
reactant | ethyl trifluoromethanesulfonate | 2.97 mmol, 389 μl | FC(S(=O)(=O)OCC)(F)F | C3H5F3O3S
reactant | methanol | CO | CH4O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-[5-Ethoxy-2-methyl-4-[4-nitro-2-(trifluoromethyl)phenyl]-1,4-dihydro-1,6-naphthyridin-3-yl]-ethanone | C(C)OC1=C2C(C(=C(NC2=CC=N1)C)C(C)=O)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C20H18F3N3O4
